US06410592B1
Step F: 2-(N-Benzylmethylamino)methyl-6-fluoro-1-phenyl-3,4-dihydronaphthalene
Trifluoroacetic acid (10 cm3) was added to 2-(N-benzylmethylamino)methyl-6-fluoro-1-phenyl-1,2,3,4-tetrahydronaphthalene-1-ol (1.5 g) and the resulting solution was stirred at room temperature for 2 h. The excess trifluoroacetic acid was removed under reduced pressure and the resultant brown oil was taken up into petroleum ether (b. p. 40-60° C.) and passed through a short column [basic alumina, eluting with petroleum ether (b. p. 40-60° C.)-ethyl acetate (20:1)]. The fractions containing the product were combined and the solvent removed under reduced pressure to afford the title compound (0.97 g).

reactant | 2-(N-benzylmethylamino)methyl-6-fluoro-1-phenyl-1,2,3,4-tetrahydronaphthalene-1-ol | 1.5 g | C(C1=CC=CC=C1)CNCC1C(C2=CC=C(C=C2CC1)F)(O)C1=CC=CC=C1 | C25H26FNO
solvent | Trifluoroacetic acid | 10 cm3 | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(N-Benzylmethylamino)methyl-6-fluoro-1-phenyl-3,4-dihydronaphthalene | 0.97 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)F)C1=CC=CC=C1 | C25H24FN
